US04640707
Electrolytic iron (11.39 g) was suspended in 5% aqueous acetic acid solution (22 ml) and heated to 80° C. To the suspension, a solution of 5-nitro-3-(2-propynyl)-3H-benzoxazol-2-one (4.15 g) in acetic acid (20 ml) and ethyl acetate (20 ml) was dropwise added, and the resultant mixture was stirred at 70° C. for 3 hours. After being allowed to cool, water was added to the mixture, which was then extracted with ethyl acetate. The extract was washed with water and sodium bicarbonate solution, dried and concentrated to give 5-amino-3-(2-propynyl)-3H-benzoxazol-2-one (1.95 g). m.p., 102.1° C.

reactant | 5-nitro-3-(2-propynyl)-3H-benzoxazol-2-one | 4.15 g | [N+](=O)([O-])C=1C=CC2=C(N(C(O2)=O)CC#C)C1 | C10H6N2O4
reactant | water | O | H2O
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 11.39 g | [Fe] | Fe
product | 5-amino-3-(2-propynyl)-3H-benzoxazol-2-one | 1.95 g | NC=1C=CC2=C(N(C(O2)=O)CC#C)C1 | C10H8N2O2
